US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidinecarboxaldehyde
16.1 g of 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidinemethanol and 38 ml of triethylamine were suspended in 60 ml of dimethyl sulfoxide, a mixed solution of 21.7 g of a sulfur trioxide-pyridine complex and 100 ml of dimethyl sulfoxide was added dropwise thereto, and the mixture was stirred at room temperature for one hour. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (ethyl acetate), to give 10.9 g of the title compound as a pale yellow oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidinemethanol | 16.1 g | COC1=NC=CC=C1CN1CCC(CC1)CO | C13H20N2O2
reactant | triethylamine | 38 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidinecarboxaldehyde | 10.9 g | COC1=NC=CC=C1CN1CCC(CC1)C=O | C13H18N2O2
